US07820356B2
Synthesis of Hexyl Norbornene Homopolymer (P8)
HxNB, (10.0 g, 0.056 mol), 1-hexene (4.71 g, 0.056 mol) and toluene (56.7 g) were combined in a 250 mL serum bottle and heated to 8° C. in an oilbath form a solution. To this solution were added Pd1446, (4.10E-4 g, 2.80E-7 mol) and DAMABA, (2.20E-4 g, 2.80E-7 mol), each in the form of a concentrated solution in dichloromethane. After addition, the resulting mixture was maintained at 80° C. for 40 minutes. The homopolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 5.8 g was obtained (58%). The molecular weight of the copolymer, determined by GPC in THF solvent (polystyrene standard) provided Mw=121,541 and Mn=59,213. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5146 in TE mode and 1.5129 in TM mode at a wavelength of 633 nm. The Tg (eased on thermomechanical analysis (TMA) measurement) of this polymer was 208° C. The dried homopolymer was dissolved in sufficient mesitylene to result in a 10 wt % homopolymer solution.

reactant | 1-hexene | 0.056 mol, 10.0 g | C=CCCCC | C6H12
reactant | toluene | 56.7 g | C1(=CC=CC=C1)C | C7H8
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | Hexyl Norbornene | C(CCCCC)C12C=CC(CC1)C2 | C13H22
